US04642308
The procedure is similar to that described in Example 1, but starting with cyclobutanecarboxylic acid (5 g), N,N'-carbonyldiimidazole (10.5 g) and 2-amino-7chloro-1,8-naphthyridine (7 g). The product produced by filtration (9 g; m.p. 192° C.) is dissolved in boiling acetonitrile (150 cc). After 3 hours' cooling at 20° C., the crystallised solid is separated by filtration, washed with ethyl ether (3×25 cc) and dried at 35° C. under reduced pressure (0.066 kPa). N-(7-Chloro-1,8-naphthyridin-2-yl)cyclobutanecarboxamide (6.3 g) is produced, m.p. 192°-194° C. EXAMPLE 6

reactant | cyclobutanecarboxylic acid | 5 g | C1(CCC1)C(=O)O | C5H8O2
reactant | 2-amino-7chloro-1,8-naphthyridine | 7 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
solvent | acetonitrile | 150 cc | C(C)#N | C2H3N
product | N-(7-Chloro-1,8-naphthyridin-2-yl)cyclobutanecarboxamide | 6.3 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)C1CCC1 | C13H12ClN3O
